US09056112B2
Pure Linagliptin is isolated from Linagliptin-D-(−)-tartrate using water and a suitable base. The Linagliptin-D-(−)-tartrate solution is treated with a suitable base such as lithium hydroxide, sodium hydroxide, potassium hydroxide or the like. The base may be added in the form of a solution having about 1% to about 20% concentration. The resulted solution is treated with a water immiscible organic solvent and the organic layer containing linagliptin is separated and is washed with water and concentrated to produce pure Linagliptin.

reactant | Linagliptin D-(−)-tartrate | CC#CCN1C2=C(N=C1N3CCC[C@H](C3)N)N(C(=O)N(C2=O)CC=4N=C(C=5C=CC=CC5N4)C)C.C(=O)([O-])[C@@H](O)[C@H](O)C(=O)[O-]
reactant | lithium hydroxide | [OH-].[Li+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | Linagliptin | CC#CCN1C2=C(N=C1N3CCC[C@H](C3)N)N(C(=O)N(C2=O)CC=4N=C(C=5C=CC=CC5N4)C)C | C25H28N8O2
